Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
atropine eyedrops
 
Attending: ___.
 
Chief Complaint:
post-polypectomy bleed 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old woman without significant past medical history who 
is s/p colonoscopy and polypectomy on ___, presenting with 
blood per rectum. On colonoscopy, a sessile 8mm benign-appearing 
polyp and sessile 2cm multilobular poly were completely removed 
from the proximal transverse and mid -ascending colon 
respectively. After the colonoscopy she had two episodes "like 
flowing blood", slept through the night, and then at 8 am on day 
of presentation had two bloody BMs within 30 minutes where the 
blood was noticeably darker.  She has had occasional dizzininess 
and weakness recently.  

In the ED, initial vitals: 97.2 84 114/72 16 94% RA.  She was 
asymptomatic in the ED and no gross rectal bleeding was noted. 
Guaiac positive with brown/black stools. GI evaluated her and 
recommended observation for continued bleed and and Hct 
monitoring q6h.  Her admission Hct was 38.9, dropped down to 
34.5 over 12 hours.  She was admitted due to this Hct drop.  At 
time of admission to medicine, her Hct was 37.8.  Vitals prior 
to transfer:  98.0 72 133/70 16 98%.  

Currently, the patient reports feeling "good" and has not had 
any bowel movements over night. She was curious why she was 
admitted after no episodes of rectal bleeding while under 
observation. 
 
ROS: per HPI, denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, dysuria, hematuria.  
 
 
Past Medical History:
Hpylori (started on Pylera ___, not filled script yet), CAD 
and hypertension.

 
Social History:
___
Family History:
Father with CAD and an abnormal prostate. Mother died of colon 
cancer at age ___.  Her siblings are all well.
 
Physical Exam:
ADMISSION EXAM
---------------
98.0 72 133/70 16 98% 
Gen: NAD, AOx3
HEENT: normocephalic / atraumatic. Conjunctiva clear, sclera 
anicteric.  PERRL, EOM intact. 
Pulm: Clear to auscultation bilaterally, anteriorly and 
posteriorly.  
Card:  RRR. Normal S1/S2. No MRG. 
Abd: Normoactive bowel sounds.  Soft, NT/ND w/o masses or HSM.  
Ext: No swelling or deformity. Extremities WWP. Mild bilateral 
nonpitting edema.  
Skin: Skin warm and w/o rash, pigmented lesions, petechiae, or 
ecchymoses.

DISCHARGE EXAM
---------------
Afebrile, vital signs stable 
Gen: NAD, AOx3
HEENT: normocephalic / atraumatic. Conjunctiva clear, sclera 
anicteric.  PERRL, EOM intact. 
Pulm: Clear to auscultation bilaterally, anteriorly and 
posteriorly.  
Card:  RRR. Normal S1/S2. No MRG. 
Abd: Normoactive bowel sounds.  Soft, NT/ND w/o masses or HSM.  
Ext: No swelling or deformity. Extremities WWP. Mild bilateral 
non-pitting edema.  
Skin: Skin warm and w/o rash, pigmented lesions, petechiae, or 
ecchymoses.
 
Pertinent Results:
ADMISSION LABS
--------------
___ 12:55PM BLOOD WBC-6.7 RBC-4.46 Hgb-13.2 Hct-38.9 MCV-87 
MCH-29.7 MCHC-34.0 RDW-13.4 Plt ___
___ 06:45PM BLOOD Hct-38.0
___ 01:50AM BLOOD Hct-34.5*
___ 06:55AM BLOOD WBC-6.3 RBC-4.43 Hgb-13.4 Hct-37.8 MCV-85 
MCH-30.2 MCHC-35.4* RDW-13.4 Plt ___
___ 12:55PM BLOOD Neuts-52.1 ___ Monos-4.6 Eos-1.5 
Baso-0.7
___ 06:55AM BLOOD Neuts-45.9* Lymphs-46.1* Monos-4.2 
Eos-3.1 Baso-0.7
___ 12:55PM BLOOD Plt ___
___ 01:04PM BLOOD ___ PTT-26.6 ___
___ 06:55AM BLOOD Plt ___
___ 12:55PM BLOOD Glucose-85 UreaN-21* Creat-0.9 Na-142 
K-5.7* Cl-106 HCO3-26 AnGap-16
___ 06:58PM BLOOD K-3.6

DISCHARGE LABS
--------------
same as above, same day discharge and no new labs drawn 

MICROBIOLOGY
-----------
none

IMAGING
-------
none

 
Brief Hospital Course:
___ year old woman who underwent colonoscopy with polypectomy two 
days prior to presentation, admitted with blood in stools and 
hematocrit drop; resolved upon admission. 

ACTIVE ISSUES
-------------
#. Rectal Bleeding/Hematocrit drop:  Patient with likely mild 
post-polypectomy bleed 1 day following colonoscopy.  She was 
observed in the ED for 24 hours without bleeding, but was 
admitted to medicine for further monitoring in light of a 4 
point HCT drop (39 to 34). On admission to medicine, HCT 
improved to 37. The patient had no abdominal pain, cramping, or 
evidence of bleeding. She was able to tolerate a regular diet. 
She was discharged to home with PCP and gastroenterology 
___.

INACTIVE ISSUES
---------------
#.Hypertension: Blood pressure was stable. She was not taking 
her prescribed metoprolol succinate or aspirin prior to 
admission.  These were not given in the hospital. Her home dose 
of valsartan was continued.  The patient should follow up with 
her PCP for further management of her hypertension.  

#.Hyperlipidemia: PRAVASTATIN 80 mg was continued. 

#.H. pylori: No upper gastrointestinal symptoms during 
admission. She had not started her Pylera treatment yet and this 
was deferred to outpatient so that she may complete her full 
course withut interruptions.  

TRANSITIONAL ISSUES
-------------------
___: PCP and ___ follow up appointments were 
scheduled 
Code status: Full
Contact: daughter ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Pravastatin 80 mg PO DAILY 
3. Valsartan 80 mg PO DAILY 
hold for SBP < 110 
4. Aspirin 81 mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Glucosamine *NF* (glucosamine sulfate) 500 mg Oral daily 
7. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Multivitamins 1 TAB PO DAILY 
2. Pravastatin 80 mg PO DAILY 
3. Valsartan 80 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Glucosamine *NF* (glucosamine sulfate) 500 mg Oral daily 
6. Aspirin 81 mg PO DAILY 
hold for ___ days following discharge 
7. Metoprolol Succinate XL 25 mg PO DAILY 
You were not taking this prior to admission.  Please discuss 
with your PCP whether to resume it.   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
post-polypectomy bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

You were admitted to the hospital with a small amount of 
bleeding after a colonoscopy.  Your blood counts initially went 
down in the emergency department, but then returned to your 
normal blood counts.  You had no abdominal pain and no evidence 
of bleeding for 24 hours when admitted to the medical floor.  
You were able to tolerate a regular diet and were discharged to 
home.  

Follow up with your primary care physician and gastroenterology 
for routine care.
 
Followup Instructions:
___